* Unit fixture: VBIC NPN bias point (level 4).
* Expected results: device_vbic.expected.json
* Origin: benchmark/fixtures/devices/vbic/circuit.sp
Vcc vcc 0 DC 5
Vb b 0 DC 0.8
Rc vcc c 1k
Q1 c b 0 vb1
.model vb1 NPN(level=4)
.op
.end
